US07915267B2
4-oxo-N-[(3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide
A suspension of ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate obtained according to the methods described in Journal of Organic Chemistry (1978), 43(23), 4485-7 and the like (200 mg, 0.917 mmol), 1-(3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}phenyl)methanamine obtained in Reference Example 3 (298 mg, 1.19 mmol) and diisopropylethylamine (237 mg, 1.83 mmol) in ethanol (10 mL) was stirred at 90° C. for 15 hr. The reaction solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate and water. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The residue was purified by preparative HPLC (GILSON 215LIQUD HANDLER, 322PUMP, UV/VIS-156, SHISEIDO CAPCELL PACK C-18 UG120 S-5 (20 mmφ×50 mm), mobile phase: distilled water (containing 0.1% trifluoroacetic acid)/acetonitrile (containing 0.1% trifluoroacetic acid), gradient: distilled water/acetonitrile-90/10→0/100, time: 10 min, flow rate: 25 mL/min, detection wavelength: 220 nm), and the obtained crude crystals were recrystallized from ethanol to give the title compound as a white powder (29.2 mg, 8%).

reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | 1-(3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}phenyl)methanamine | N1N=C(N=C1)SCCOC=1C=C(C=CC1)CN | C11H14N4OS
reactant | diisopropylethylamine | 1.83 mmol, 237 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-oxo-N-[(3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide | 29.2 mg, 8% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC1=CC(=CC=C1)OCCSC1=NNC=N1 | C20H18N6O3S
